### PR TITLE
Add Erdős Problem 804 (independence numbers forced by local independence), link the formal proof

### LINKED ISSUE #6343: Erdős Problem 804
### What is the Erdős problem?

https://www.erdosproblems.com/804

Let $f(m,n)$ be maximal such that any graph on $n$ vertices in which every induced subgraph on $m$ vertices has an independent set of size at least $\log n$ must contain an independent set of size at least $f(n)$. Estimate $f(n)$. In particular, is it true that $f((\log n)^2,n) \geq n^{1/2-o(1)}$? Is it true that $f((\log n)^3,n)\gg (\log n)^3$?

Status: disproved (Alon–Sudakov [AlSu07]). A formal proof exists in plby/lean-proofs (`Erdos804.erdos_804`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6343.

### What changed
Adds `FormalConjectures/ErdosProblems/804.lean` with `HasLocalIndependence G m t` (every `m`-set contains an independent set of size `≥ t`) and `f m n` (the least independence number of a graph on `n` vertices with the local `(m, ⌈log n⌉)` condition):
- `erdos_804.parts.i` (`answer(False)`): `f((log n)², n) ≥ n^{1/2 - o(1)}` fails.
- `erdos_804.parts.ii` (`answer(False)`): `f((log n)³, n) ≫ (log n)³` fails.
- `variants.alon_sudakov`: `(log n)²/log log n ≪ f((log n)², n) ≪ (log n)²` and `f((log n)³, n) ≍ (log n)²/log log n`.

All linked to plby/lean-proofs `Erdos804.erdos_804` (Codex and GPT-5.6 Sol; single Mathlib-only file, ~3600 lines).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos804.erdos_804` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby defines the extremal value with `Nat.findGreatest`; the bridge shows it agrees with the `sInf` form whenever an admissible graph exists, which holds for all large `n` via the empty graph, and derives the two negative answers using `(log n)² = o(n^{1/4})` and `log n · log log n → ∞`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real Asymptotics

namespace Bridge804

lemma hasLocalIndependence_iff {n : ℕ} (G : SimpleGraph (Fin n)) (m t : ℕ) :
    Erdos804.HasLocalIndependence G m t ↔ Erdos804Plby.HasLocalIndependence G m t := by
  unfold Erdos804.HasLocalIndependence Erdos804Plby.HasLocalIndependence
  refine forall_congr' fun S => forall_congr' fun _ => ?_
  constructor
  · rintro ⟨I, hIS, htI, hI⟩
    obtain ⟨J, hJI, hJ⟩ := Finset.exists_subset_card_eq htI
    exact ⟨J, hJI.trans hIS, hI.mono (by exact_mod_cast hJI), hJ⟩
  · rintro ⟨I, hIS, hI⟩
    exact ⟨I, hIS, hI.card_eq.ge, hI.isIndepSet⟩

lemma indepNum_le {n : ℕ} (G : SimpleGraph (Fin n)) : G.indepNum ≤ n := by
  obtain ⟨s, hs⟩ := G.exists_isNIndepSet_indepNum
  rw [← hs.card_eq]
  simpa using Finset.card_le_univ s

/-- Whenever some admissible graph exists, the two extremal functions agree. -/
lemma f_eq {n m : ℕ}
    (hex : ∃ G : SimpleGraph (Fin n), Erdos804Plby.HasLocalIndependence G m ⌈log n⌉₊) :
    Erdos804.f m n = Erdos804Plby.localIndependenceNumber n m ⌈log n⌉₊ := by
  classical
  unfold Erdos804.f Erdos804Plby.localIndependenceNumber
  simp only [hasLocalIndependence_iff]
  set S := {k | ∃ G : SimpleGraph (Fin n),
    Erdos804Plby.HasLocalIndependence G m ⌈log n⌉₊ ∧ G.indepNum = k} with hS
  obtain ⟨G₀, hG₀⟩ := hex
  have hne : S.Nonempty := ⟨_, G₀, hG₀, rfl⟩
  obtain ⟨G₁, hG₁, hG₁eq⟩ := Nat.sInf_mem hne
  symm
  rw [Nat.findGreatest_eq_iff]
  refine ⟨?_, fun _ => ?_, ?_⟩
  · rw [← hG₁eq]; exact indepNum_le G₁
  · intro G hG
    exact Nat.sInf_le ⟨G, hG, rfl⟩
  · intro k hk _ hguar
    have := hguar G₁ hG₁
    omega

lemma bot_hasLocalIndependence {n m t : ℕ} (h : t ≤ m) :
    Erdos804Plby.HasLocalIndependence (⊥ : SimpleGraph (Fin n)) m t := by
  intro S hS
  obtain ⟨I, hIS, hI⟩ := Finset.exists_subset_card_eq (hS ▸ h : t ≤ S.card)
  exact ⟨I, hIS, ⟨fun _ _ _ _ _ h => h, hI⟩⟩

lemma ceil_le_floor_pow {x : ℝ} (hx : 2 ≤ x) {k : ℕ} (hk : 2 ≤ k) : ⌈x⌉₊ ≤ ⌊x ^ k⌋₊ := by
  have hx1 : x + 1 ≤ x ^ k := by
    calc x + 1 ≤ x ^ 2 := by nlinarith
      _ ≤ x ^ k := pow_le_pow_right₀ (by linarith) hk
  have h1 := Nat.lt_floor_add_one (x ^ k)
  rw [Nat.ceil_le]
  push_cast
  linarith

lemma eventually_f_eq (k : ℕ) (hk : 2 ≤ k) :
    ∀ᶠ n : ℕ in atTop, Erdos804.f ⌊(log n) ^ k⌋₊ n =
      Erdos804Plby.localIndependenceNumber n ⌊(log n) ^ k⌋₊ ⌈log n⌉₊ := by
  have hlog : Tendsto (fun n : ℕ => log n) atTop atTop :=
    Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop
  filter_upwards [hlog.eventually (eventually_ge_atTop 2)] with n hn
  exact f_eq ⟨⊥, bot_hasLocalIndependence (ceil_le_floor_pow hn hk)⟩

lemma logWindow_eq (j n : ℕ) : Erdos804Plby.logWindow j n = ⌊(log n) ^ j⌋₊ := rfl
lemma logThreshold_eq (n : ℕ) : Erdos804Plby.logThreshold n = ⌈log n⌉₊ := rfl

theorem alon_sudakov : type_of% Erdos804.erdos_804.variants.alon_sudakov := by
  obtain ⟨c₂, C₂, c₃, C₃, h₂, H₂, h₃, H₃, hev⟩ := Erdos804Plby.erdos_804
  refine ⟨c₂, C₂, c₃, C₃, h₂, H₂, h₃, H₃, ?_⟩
  filter_upwards [hev, eventually_f_eq 2 le_rfl, eventually_f_eq 3 (by norm_num)] with n hn h2 h3
  rw [h2, h3]
  exact hn

theorem parts_ii : type_of% Erdos804.erdos_804.parts.ii := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨c, hc, hf⟩
  obtain ⟨c₂, C₂, c₃, C₃, h₂, H₂, h₃, H₃, hev⟩ := Erdos804Plby.erdos_804
  have hlog : Tendsto (fun n : ℕ => log n) atTop atTop :=
    Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop
  have hloglog : Tendsto (fun n : ℕ => log (log n)) atTop atTop :=
    Real.tendsto_log_atTop.comp hlog
  have hprod : Tendsto (fun n : ℕ => log n * log (log n)) atTop atTop :=
    hlog.atTop_mul_atTop₀ hloglog
  have hbad := (hf.and hev).and ((eventually_f_eq 3 (by norm_num)).and
    ((hlog.eventually (eventually_ge_atTop 2)).and (hprod.eventually (eventually_gt_atTop (C₃ / c)))))
  obtain ⟨n, ⟨hfn, -, -, -, hup⟩, heq, hn2, hbig⟩ := hbad.exists
  rw [heq] at hfn
  have hL : 0 < log n := by linarith
  have hLL : 0 < log (log n) := Real.log_pos (by linarith)
  -- `c * L^3 ≤ C₃ * L^2 / LL` gives `c * L * LL ≤ C₃`
  have h1 : c * log n ^ 3 ≤ C₃ * (log n ^ 2 / log (log n)) := hfn.trans hup
  have h2 : c * (log n * log (log n)) ≤ C₃ := by
    have h3 : c * log n ^ 3 * log (log n) ≤ C₃ * log n ^ 2 := by
      have := mul_le_mul_of_nonneg_right h1 hLL.le
      rwa [mul_div_assoc', div_mul_cancel₀ _ hLL.ne'] at this
    have h4 : (c * (log n * log (log n))) * log n ^ 2 ≤ C₃ * log n ^ 2 := by
      calc (c * (log n * log (log n))) * log n ^ 2 = c * log n ^ 3 * log (log n) := by ring
        _ ≤ C₃ * log n ^ 2 := h3
    exact le_of_mul_le_mul_right h4 (pow_pos hL 2)
  rw [div_lt_iff₀ hc] at hbig
  linarith

theorem parts_i : type_of% Erdos804.erdos_804.parts.i := by
  show False ↔ _
  simp only [false_iff]
  intro hf
  obtain ⟨c₂, C₂, c₃, C₃, h₂, H₂, h₃, H₃, hev⟩ := Erdos804Plby.erdos_804
  have hlittle : (fun x : ℝ => log x ^ (2 : ℝ)) =o[atTop] fun x : ℝ => x ^ (1 / 4 : ℝ) :=
    isLittleO_log_rpow_rpow_atTop 2 (by norm_num)
  have hlittle' := (isLittleO_iff.1 (hlittle.comp_tendsto tendsto_natCast_atTop_atTop))
    (show (0 : ℝ) < 1 / (2 * C₂) by positivity)
  have hbad := ((hf (1 / 4) (by norm_num)).and hev).and
    ((eventually_f_eq 2 le_rfl).and (hlittle'.and (eventually_ge_atTop 1)))
  obtain ⟨n, ⟨hfn, -, hup, -, -⟩, heq, hsmall, hn1⟩ := hbad.exists
  rw [heq] at hfn
  simp only [Function.comp, Real.norm_eq_abs] at hsmall
  have hn0 : (0 : ℝ) < n := by exact_mod_cast hn1
  have hpos : 0 < (n : ℝ) ^ (1 / 4 : ℝ) := Real.rpow_pos_of_pos hn0 _
  rw [abs_of_nonneg hpos.le, abs_of_nonneg (by positivity), Real.rpow_two] at hsmall
  have hexp : (1 / 2 - 1 / 4 : ℝ) = 1 / 4 := by norm_num
  rw [hexp] at hfn
  have h1 : (n : ℝ) ^ (1 / 4 : ℝ) ≤ C₂ * log n ^ 2 := hfn.trans hup
  have h2 : C₂ * log n ^ 2 ≤ (1 / 2) * (n : ℝ) ^ (1 / 4 : ℝ) := by
    calc C₂ * log n ^ 2 ≤ C₂ * (1 / (2 * C₂) * (n : ℝ) ^ (1 / 4 : ℝ)) := by gcongr
      _ = (1 / 2) * (n : ℝ) ^ (1 / 4 : ℝ) := by field_simp
  linarith

#print axioms Erdos804Plby.erdos_804
#print axioms parts_i
#print axioms parts_ii
#print axioms alon_sudakov

end Bridge804
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«804»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/804.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/804.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
